US06255276B1
68.1 g (149 mmol) of (4-carboxy-3-methyl-butyl)-triphenylphosphonium bromide were placed in 150 ml of THF and treated with 33.4 g (298 mmol) of potassium t-butylate in 50 ml of THF. 35 g (149 mmol) of 10-bromodecanal were added to this mixture After usual work up 111.8 g of crude product were obtained and, after chromatography, 29 g of 3-methyl-5Z-15-bromopentadec-5-enoic acid were obtained having the following characteristics:

reactant | (4-carboxy-3-methyl-butyl)-triphenylphosphonium bromide | 149 mmol, 68.1 g | [Br-].C(=O)(O)CC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 10-bromodecanal | 149 mmol, 35 g | BrCCCCCCCCCC=O | C10H19BrO
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-methyl-5Z-15-bromopentadec-5-enoic acid | 29 g | CC(CC(=O)O)C\C=C/CCCCCCCCCBr | C16H29BrO2
